US07105548B2
2-(3-Bromo-1H-1,2,4-triazol-1-yl)pyridine (0.25 g, 1.12 mmol) and 3-chlorophenylboronic acid (0.35 g, 2.23 mmol) were dissolved in toluene (20 mL) and methanol (2 mL), then deoxygenated via argon bubbling for 10 min. Potassium carbonate (0.23 g, 1.6 mmol) and tetrakis(triphenylphosphine)palladium (129 mg, 0.11 mmol) were added to this stirred solution. The reaction container was fitted with a reflux condenser and stirred at 90° C. for 16 h, after which time it was cooled to ambient temperature and poured into a separatory funnel containing EtOAc (100 mL). The EtOAc solution was washed with H2O (2×100 mL), then brine (100 mL) and the organic phase was dried (MgSO4), filtered and concentrated in vacuo. The resulting crude residue was chromatographed on silica gel eluting with hexanes:EtOAc (8:2) to afford 2-[3-(3-chlorophenyl)-1H-1,2,4-triazol-1-yl]pyridine as a white powder which was dissolved in dichloromethane (10 mL) and precipitated as the hydrochloride salt (M.p.=125–128° C.) upon treatment with 1M HCl in diethyl ether (1 mL).

reactant | 2-(3-Bromo-1H-1,2,4-triazol-1-yl)pyridine | 1.12 mmol, 0.25 g | BrC1=NN(C=N1)C1=NC=CC=C1 | C7H5BrN4
reactant | 3-chlorophenylboronic acid | 2.23 mmol, 0.35 g | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
reactant | Potassium carbonate | 1.6 mmol, 0.23 g | C([O-])([O-])=O.[K+].[K+]
reactant | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium | 0.11 mmol, 129 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-[3-(3-chlorophenyl)-1H-1,2,4-triazol-1-yl]pyridine | ClC=1C=C(C=CC1)C1=NN(C=N1)C1=NC=CC=C1 | C13H9ClN4
